* Arm A oscillator 10: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 10: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 4.293890e-17
Cg1 nand_Y 0 4.293890e-17
Cc0 i1_A nand_B 1.173090e-16
Cx0 i1_A 0 6.360480e-17
Rn1_1 i1_Y i2_A 30.2652
Cg2 i2_A 0 1.706300e-16
Cg3 i1_Y 0 1.706300e-16
Cc1 i2_A i4_A 2.808530e-17
Cx1 i2_A 0 7.877870e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 6.047470e-17
Cg5 i10_Y 0 6.047470e-17
Cc2 i11_A i10_A 9.066280e-17
Cc3 i11_A i12_A 1.249440e-16
Cx2 i11_A 0 5.592360e-17
Rn11_3 i11_Y i12_A 21.5866
Cg6 i12_A 0 1.803760e-16
Cg7 i11_Y 0 1.803760e-16
Cc4 i12_A i10_A 5.384440e-18
Cx3 i12_A 0 7.091000e-17
Rn12_4 i12_Y i13_A 31.3902
Cg8 i13_A 0 2.492430e-16
Cg9 i12_Y 0 2.492430e-16
Cx4 i13_A 0 1.157560e-16
Cx5 i13_A 0 8.439380e-18
Rn13_5 i13_Y i14_A 19.4973
Cg10 i14_A 0 3.937250e-17
Cg11 i13_Y 0 3.937250e-17
Cx6 i14_A 0 3.481960e-17
Rn14_6 i14_Y i15_A 19.4973
Cg12 i15_A 0 3.934290e-17
Cg13 i14_Y 0 3.934290e-17
Cx7 i15_A 0 3.487170e-17
Rn15_7 i15_Y s1227_6 10.8625
Rn15_8 s1227_6 buf_A 9.3000
Rn15_9 s1227_6 i16_A 22.7955
Cg14 i16_A 0 2.456660e-16
Cg15 buf_A 0 0.000000e+00
Cg16 i15_Y 0 6.532990e-17
Cg17 s1227_6 0 3.109960e-16
Cx8 i16_A 0 2.890160e-17
Cc5 i16_A i18_A 2.808530e-17
Cx9 i16_A 0 3.000230e-17
Cx10 i16_A 0 2.956410e-17
Cx11 s1227_6 0 6.632970e-17
Cx12 i16_A 0 1.052620e-16
Rn16_10 i16_Y i17_A 21.8902
Cg18 i17_A 0 1.913830e-16
Cg19 i16_Y 0 1.913830e-16
Cc6 i17_A i18_A 1.252150e-16
Cx13 i17_A 0 4.080820e-17
Rn17_11 i17_Y i18_A 22.2473
Cg20 i18_A 0 1.151630e-16
Cg21 i17_Y 0 1.151630e-16
Cx14 i18_A 0 1.747980e-16
Rn18_12 i18_Y i19_A 31.0777
Cg22 i19_A 0 1.773410e-16
Cg23 i18_Y 0 1.773410e-16
Cx15 i19_A 0 1.180070e-16
Cx16 i19_A 0 3.927570e-17
Cx17 i19_A 0 8.008060e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 6.182740e-17
Cg25 i19_Y 0 6.182740e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 3.355400e-17
Cg27 i2_Y 0 3.355400e-17
Cc7 i3_A i4_A 9.572150e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 4.889010e-17
Cg29 i20_Y 0 4.889010e-17
Cc8 i21_A i22_A 3.198640e-17
Rn21_16 i21_Y i22_A 31.7563
Cg30 i22_A 0 2.255010e-16
Cg31 i21_Y 0 2.255010e-16
Cc9 i22_A i23_A 1.599350e-17
Cx18 i22_A 0 1.530540e-16
Cx19 i22_A 0 1.489110e-16
Rn22_17 i22_Y i23_A 22.8188
Cg32 i23_A 0 2.316770e-16
Cg33 i22_Y 0 2.316770e-16
Cc10 i23_A i24_A 1.196090e-16
Cc11 i23_A i25_A 4.868200e-17
Rn23_18 i23_Y i24_A 22.5152
Cg34 i24_A 0 1.733130e-16
Cg35 i23_Y 0 1.733130e-16
Cc12 i24_A i25_A 9.267620e-17
Cc13 i24_A i26_A 1.150510e-16
Rn24_19 i24_Y i25_A 19.4973
Cg36 i25_A 0 2.295980e-17
Cg37 i24_Y 0 2.295980e-17
Rn25_20 i25_Y i26_A 30.6759
Cg38 i26_A 0 1.699880e-16
Cg39 i25_Y 0 1.699880e-16
Cc14 i26_A i28_A 2.798270e-17
Cx20 i26_A 0 1.215730e-16
Cx21 i26_A 0 6.095720e-17
Cx22 i26_A 0 1.176620e-17
Rn26_21 i26_Y i27_A 19.4973
Cg40 i27_A 0 2.671360e-17
Cg41 i26_Y 0 2.671360e-17
Cc15 i27_A i28_A 9.233000e-17
Cx23 i27_A 0 3.198640e-17
Rn27_22 i27_Y i28_A 22.9527
Cg42 i28_A 0 1.253650e-16
Cg43 i27_Y 0 1.253650e-16
Cc16 i28_A i29_A 5.182330e-17
Cx24 i28_A 0 5.262790e-17
Cx25 i28_A 0 1.896930e-17
Cx26 i28_A 0 3.869300e-16
Rn28_23 i28_Y i29_A 21.2384
Cg44 i29_A 0 7.543530e-17
Cg45 i28_Y 0 7.543530e-17
Cc17 i29_A i30_A 2.559870e-17
Cx27 i29_A 0 8.033390e-17
Cx28 i29_A 0 1.404630e-16
Rn29_24 i29_Y i30_A 21.5420
Cg46 i30_A 0 7.225800e-17
Cg47 i29_Y 0 7.225800e-17
Cc18 i30_A nand_B 2.629080e-17
Cx29 i30_A 0 1.432640e-16
Cx30 i30_A 0 1.376920e-16
Rn3_25 i3_Y i4_A 23.2563
Cg48 i4_A 0 2.274910e-16
Cg49 i3_Y 0 2.274910e-16
Cc19 i4_A i5_A 9.479740e-17
Cc20 i4_A i6_A 1.903430e-17
Rn30_26 i30_Y nand_B 22.9482
Cg50 nand_B 0 9.527570e-17
Cg51 i30_Y 0 9.527570e-17
Cx31 nand_B 0 3.842000e-16
Cx32 nand_B 0 7.588340e-17
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 3.544960e-17
Cg53 i4_Y 0 3.544960e-17
Rn5_28 i5_Y i6_A 30.1134
Cg54 i6_A 0 1.659730e-16
Cg55 i5_Y 0 1.659730e-16
Cc21 i6_A i7_A 1.145480e-17
Rn6_29 i6_Y i7_A 21.1313
Cg56 i7_A 0 1.413280e-16
Cg57 i6_Y 0 1.413280e-16
Cc22 i7_A i8_A 2.546480e-17
Rn7_30 i7_Y i8_A 21.0643
Cg58 i8_A 0 1.348510e-16
Cg59 i7_Y 0 1.348510e-16
Cc23 i8_A i9_A 2.999310e-17
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 1.012360e-16
Cg61 i8_Y 0 1.012360e-16
Cc24 i9_A i10_A 5.406220e-17
Rn9_32 i9_Y i10_A 31.9705
Cg62 i10_A 0 2.473860e-16
Cg63 i9_Y 0 2.473860e-16
Cx33 i10_A 0 1.152270e-16
Cg64 buf_X 0 1.623080e-15
Cx34 i16_A 0 2.890160e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
